US07655666B2
2-Amino-5-pyrimidin-5-yl-4-trifluoromethyl-benzoic acid methyl ester
To a solution of 2-amino-5-iodo-4-trifluoromethyl-benzoic acid methyl ester (1.5 g, 4.35 mmol) in DME (50 mL) were added pyrimidine-5-boronic acid (538.7 mg, 4.35 mmol), Pd(dppf)Cl2.CH2Cl2 (355 mg, 0.43 mmol), Cs2CO3 (2.8 g, 8.7 mmol) and the resultant mixture was stirred at reflux temperature for 36 h. The solvent was removed in vacuo and the residue was purified by flash chromatography (120 g silica gel, hexanes→EtOAc/hexanes (3:7 to 1:1)) to furnish the title product (528 mg, 41%) as a beige solid. API-ES: m/z 298 [M+H]+, rt 4.06 min.

reactant | 2-amino-5-iodo-4-trifluoromethyl-benzoic acid methyl ester | 4.35 mmol, 1.5 g | COC(C1=C(C=C(C(=C1)I)C(F)(F)F)N)=O | C9H7F3INO2
reactant | pyrimidine-5-boronic acid | 4.35 mmol, 538.7 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | CH2Cl2 | 0.43 mmol, 355 mg | C(Cl)Cl | CH2Cl2
reactant | Cs2CO3 | 8.7 mmol, 2.8 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DME | 50 mL | COCCOC | C4H10O2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-Amino-5-pyrimidin-5-yl-4-trifluoromethyl-benzoic acid methyl ester | 528 mg, 41% | COC(C1=C(C=C(C(=C1)C=1C=NC=NC1)C(F)(F)F)N)=O | C13H10F3N3O2
